US09301951B2
(S)—N1-(2-(4-(dimethylcarbamoyl)piperidin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide
This compound was prepared according to the procedure described for the synthesis of Example 187 using N,N-dimethylpiperidine-4-carboxamide in place of L-proline-tert-butyl ester. Into a 100-mL round-bottom flask, was placed a solution of (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide (100 mg, 0.16 mmol, 1.00 equiv) in ethanol (10 mL), N,N-dimethylpiperidine-4-carboxamide (50 mg, 0.32 mmol, 2.02 equiv), acetic acid (22 mg, 0.37 mmol, 2.31 equiv). The resulting solution was stirred for 0.5 h at room temperature. To the above was added NaBH3CN (22 mg, 0.35 mmol, 2.20 equiv). The resulting solution was allowed to react, with stirring, for an additional 4 h at room temperature. The resulting mixture was concentrated under vacuum. The pH value of the solution was adjusted to 8 with sodium bicarbonate.aq. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-3): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (22% CH3CN up to 38% in 6 min); Detector, Waters2545 UvDector 254&270 nm 51.5 mg product was obtained. This resulted in 51.5 mg (42%) of (S)—N1-(2-(4-(dimethylcarbamoyl)piperidin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide as a light yellow solid. LC-MS (ES, m/z): 770[M+H]+ H-NMR (400 MHz, DMSO, ppm): 12.26 (s, 1H), 9.18˜9.16 (m, 2H), 8.90˜8.88 (d, J=3.9 Hz, 1H), 8.32˜8.25 (m, 2H), 8.02˜7.98 (t, 2H), 7.88˜7.87 (d, J=3.9 Hz, 1H), 7.71˜7.64 (m, 2H), 7.60 (s, 1H), 7.28 (s, 1H), 7.20˜7.10 (m, 4H), 5.26 (s, 1H), 3.85 (s, 11H), 3.38˜3.30 (m, 8H), 3.04 (s, 5H), 2.96 (s, 5H), 2.83˜2.78 (m, 5H), 2.00˜1.91 (m, 4H), 1.86˜1.72 (m, 9H), 1.60˜1.59 (d, J=3.3 Hz, 2H).

reactant | N,N-dimethylpiperidine-4-carboxamide | CN(C(=O)C1CCNCC1)C | C8H16N2O
reactant | (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 0.16 mmol, 100 mg, 1.00 equiv | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)CC=O | C38H39N5O4
reactant | N,N-dimethylpiperidine-4-carboxamide | 0.32 mmol, 50 mg, 2.02 equiv | CN(C(=O)C1CCNCC1)C | C8H16N2O
reactant | acetic acid | 0.37 mmol, 22 mg, 2.31 equiv | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.35 mmol, 22 mg, 2.20 equiv | [BH3-]C#N.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (S)—N1-(2-(4-(dimethylcarbamoyl)piperidin-1-yl)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 51.5 mg | CN(C(=O)C1CCN(CC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)C)C | C46H55N7O4
